US07091215B2
1-(Cyclopropylmethyl)[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amino-3-fluoro-2-propanol
p-Toluenesulfonic acid hydrate (40 mg) and epifluorohydrin (0.15 mL) [CAS No.503-09-3] were added to a solution of N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine (50 mg) in 1,2-dimethoxyethane (0.40 mL), and the mixture was heated to reflux for 3 hours. After cooling to room temperature, the solvent was distilled off under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (ethyl acetate:n-hexane=1:5) to obtain the title compound (24 mg) as a brownish oil.

reactant | p-Toluenesulfonic acid hydrate | 40 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | epifluorohydrin | 0.15 mL | C(F)C1CO1 | C3H5FO
reactant | N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 50 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C21H25N3OS
solvent | 1,2-dimethoxyethane | 0.40 mL | COCCOC | C4H10O2
product | 1-(Cyclopropylmethyl)[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amino-3-fluoro-2-propanol | 24 mg | C1(CC1)CC(C(CF)O)NC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C24H30FN3O2S
